US06358971B1
2-amino-3-phenyl-6-(α-phenylacetyl)-imidazo[1,2-a]pyridine
The N-(3-phenyl-6-[N-methyl-N-methoxycarbamoyl]imidazo[1,2-a]pyridin-2-yl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane (812 mg, 4 mmol) was dissolved in 30 ml of THF under N2 and benzylmagnesiumchloride (2 M in THF, 6 ml, 12.0 mmol) was added. The mixture was allowed to stir for 18 hours at RT before adding 15 ml of MeOH and 3 ml of acetic acid. The mixture was allowed to stir for 1 hour at RT. The solvents were removed in vacuo and the residue taken up in 400 ml of EtOAc and 60 ml of NaHCO3. The EtOAc was separated and washed with with brine (2×75 ml), dried over NaSO4, and then concentrated in vacuo. The residue was purified by normal phase flash chromatography (EtOAc). The product fractions were recrystalized from EtOAc to yield 398 mg of product. (31.6%). MS(FD), NMR.

reactant | N-(3-phenyl-6-[N-methyl-N-methoxycarbamoyl]imidazo[1,2-a]pyridin-2-yl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane | 4 mmol, 812 mg | C1(=CC=CC=C1)C1=C(N=C2N1C=C(C=C2)C(N(OC)C)=O)N2[Si](CC[Si]2(C)C)(C)C | C22H30N4O2Si2
reactant | benzylmagnesiumchloride | 12.0 mmol, 2 M, 6 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | MeOH | 15 ml | CO | CH4O
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-amino-3-phenyl-6-(α-phenylacetyl)-imidazo[1,2-a]pyridine | 398 mg | NC=1N=C2N(C=C(C=C2)C(CC2=CC=CC=C2)=O)C1C1=CC=CC=C1 | C21H17N3O
